US07973176B2
(R)-3-benzyloxypyrrolidine
After 156 g of ethyl acetate and 100 g of water were added into 39 g of (R)-3-benzyloxypyrrolidine hydrochloride which had been obtained separately and the mixture was stirred for a while, an organic layer was separated. After 156 g of ethyl acetate was added to the resultant aqueous layer and cooled by ice, 24 g of 30% aqueous solution of sodium hydroxide was dropped. After stirring for a while and separating an aqueous layer, an organic layer was washed with 20 g of water. The resultant organic layer was concentrated and dried under reduced pressure, thereby obtaining 33 g (purity 86.6%) of a concentrate of (R)-3-benzyloxypyrrolidine. An amount of (R)-3-hydroxypyrrolidine with respect to (R)-3-benzyloxypyrrolidine was reduced from 0.84 wt % to 0.12 wt % by the above operations.

reactant | ethyl acetate | 156 g | C(C)(=O)OCC | C4H8O2
reactant | (R)-3-benzyloxypyrrolidine hydrochloride | 39 g | Cl.C(C1=CC=CC=C1)O[C@H]1CNCC1
solvent | water | 100 g | O | H2O
product | (R)-3-benzyloxypyrrolidine | C(C1=CC=CC=C1)O[C@H]1CNCC1 | C11H15NO
